US06350907B1
tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-fluoro-(4-phenyl)phenyl]hex-5-enoate as a colourless gum (997 mg, 83%).
According to the method of Preparation 1, tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-fluoro-(4-phenyl)phenyl]hexanoate (650 mg, 1.08 mmol) was treated with trifluoroacetic acid at 20° C. for 4 h to give the title compound (470 mg, 80%).

reactant | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-fluoro-(4-phenyl)phenyl]hexanoate | 1.08 mmol, 650 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1=CC(=C(C=C1)C1=CC=CC=C1)F)(C)C | C37H47FN2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-fluoro-(4-phenyl)phenyl]hex-5-enoate | 470 mg, 80% | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)C1=CC=CC=C1)F)(C)C | C37H45FN2O4
